US05405851
A. 3-Amino-1,2,5,6-tetrahydro-1-oxobenzo[f]quinazolin-8-sulfonylchloride
Chlorosulfonic acid(25 ml, Aldrich), cooled to 5° C. in ice, was stirred during its addition to 3-amino-1,2,5,6-tetrahydro-1-oxo-benzo [f]quinazoline (5 g, 0.025 mole) contained in a beaker immersed in an ice bath. The solution was removed from the ice bath, stirred for a further 20 min, then poured onto ice (1000 g). The solid product was removed by filtration, washed with water, and dried under high vacuum at room temperature. The sulfonyl chloride was used without further purification.

reactant | Chlorosulfonic acid | 25 ml | ClS(=O)(=O)O | ClHO3S
reactant | 3-amino-1,2,5,6-tetrahydro-1-oxo-benzo [f]quinazoline | 0.025 mole, 5 g | NC1=NC=2CCC3=C(C2C(N1)=O)C=CC=C3 | C12H11N3O
product | 3-Amino-1,2,5,6-tetrahydro-1-oxobenzo[f]quinazolin-8-sulfonylchloride | NC1=NC=2CCC3=C(C2C(N1)=O)C=CC(=C3)S(=O)(=O)Cl | C12H10ClN3O3S
